US05880147
Ethyl 3-(2,4-dimethoxyphenyl)-2-ethoxycarbonyl-2-propenoate
A solution of 10.0 g (60.2 mmol) of 2,4-dimethoxybenzaldehyde, 10.6 g (66.3 mmol) of diethyl malonate, 0.19 g (1.6 mmol) of benzoic acid and 0.20 ml (2.0 mmol) of piperidine in 43 ml of benzene was heated under reflux for 16 hours, whilst removing the water formed. At the end of this time, it was allowed to cool to room temperature, and then the reaction mixture was diluted with a 2:1 by volume mixture of ethyl acetate and hexane, and the diluted solution was washed with a saturated aqueous solution of sodium hydrogencarbonate, with 1N aqueous hydrochloric acid, with water and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried. The solvent was removed by distillation under reduced pressure, and the resulting residue was recrystallized from a mixture of diisopropyl ether and hexane, to give 17.1 g (yield 92%) of the title compound as crystals, melting at 40°-41° C. (from a mixture of diisopropyl ether and hexane).

reactant | 2,4-dimethoxybenzaldehyde | 60.2 mmol, 10.0 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | diethyl malonate | 66.3 mmol, 10.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | benzene | 43 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | benzoic acid | 1.6 mmol, 0.19 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
catalyst | piperidine | 2.0 mmol, 0.20 ml | N1CCCCC1 | C5H11N
product | Ethyl 3-(2,4-dimethoxyphenyl)-2-ethoxycarbonyl-2-propenoate | 17.1 g, yield 92% | COC1=C(C=CC(=C1)OC)C=C(C(=O)OCC)C(=O)OCC | C16H20O6
